US06329381B1
6-Amino-9-benzyl-2-propylthiopurine
To DMF suspension (50 ml) containing sodium hydride (917 mg, 23 mmol, 60% in mineral oil) were added propanethiol (5.0 ml, 55 mmol) and 6-amino-9-benzyl-2-chloropurine (500 mg, 1.9 mmol) in order. The mixture was stirred under heating at 110° C. for 2.5 hours. Brine was added thereto and the mixture was extracted with ethyl acetate. The organic layer was dried on magnesium sulfate, filtered and the solvent in the filtrate was evaporated. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (505 mg, yield 87%).

reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 23 mmol, 917 mg | [H-].[Na+]
reactant | propanethiol | 55 mmol, 5.0 ml | C(CC)S | C3H8S
reactant | 6-amino-9-benzyl-2-chloropurine | 1.9 mmol, 500 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | Brine | [Cl-].[Na+].O
product | 6-Amino-9-benzyl-2-propylthiopurine | 505 mg, yield 87% | NC1=C2N=CN(C2=NC(=N1)SCCC)CC1=CC=CC=C1 | C15H17N5S
